US04010176
A mixture of 24.25 g. of 1-(2'-acetoxyethyl)-5-nitroimidazole prepared as in Example 4, 15 g. of paraformaldehyde and 150 ml. of dimethylsulfoxide is heated in a sealed tube overnight at 100°-150° C. The dimethylsulfoxide is removed completely at reduced pressure, and the residue is dissolved in water and extracted with chloroform. The chloroform extract is dried and concentrated. The residue is dissolved in ethyl acetate, and the solution is charged on a column of alumina. Elution with ethyl acetate and evaporation of the solvent yields 1-(2'-acetoxyethyl)-2-hydroxymethyl-5-nitroimidazole, m.p. 38°-145° C.

reactant | 1-(2'-acetoxyethyl)-5-nitroimidazole | C(C)(=O)OCCN1C=NC=C1[N+](=O)[O-] | C7H9N3O4
reactant | paraformaldehyde | C=O | CH2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 1-(2'-acetoxyethyl)-2-hydroxymethyl-5-nitroimidazole | C(C)(=O)OCCN1C(=NC=C1[N+](=O)[O-])CO | C8H11N3O5
